US05698585
2(or 5)-Ethyl-4-hydroxy-5(or 2)-methyl-3(2H)-furanone (1.0 g) and 4-dimethylaminopyridine (0.05 g) were dissolved in a mixture solution of pyridine (10 ml) and methylene chloride (10 ml) under an argon stream in a 50 ml two-necked flask. To the resulting solution, butyric anhydride (1.26 ml) was added dropwise under cooling with ice and the mixture was stirred at room temperature for 12 hours. The reaction mixture solution was mixed with a 0.5N ice-cooled aqueous solution of HCl (10 ml) and subjected to extraction with diethyl ether (30 ml). The ether-extraction was repeated 3 times. The ether layer was washed 3 times with a 0.5N aqueous solution of HCl twice with a saturated aqueous solution of sodium bicarbonate and once with a saturated saline solution and dried over sodium sulfate. The ether layer was then concentrated under a reduced pressure and applied to a silica gel column for separation and purification. Thus, a mixture (1.28 g) of 4-butyryloxy-2-ethyl-5-methyl-3(2H)-furanone (major) and 4-butyryloxy-5-ethyl-2-methyl-3(2H)-furanone (minor) was obtained.

reactant | 2(or 5)-Ethyl-4-hydroxy-5(or 2)-methyl-3(2H)-furanone | 1.0 g | CCC1C(=O)C(=CO1)CO | C7H10O3
reactant | butyric anhydride | 1.26 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | HCl | 10 ml | Cl | ClH
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.05 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-butyryloxy-2-ethyl-5-methyl-3(2H)-furanone | 1.28 g | C(CCC)(=O)OC=1C(C(OC1C)CC)=O | C11H16O4
